US07973047B2
(S)-methyl 2-(tert-butoxycarbonyl)-3-(2-(trifluoromethyl)pyrimidin-4-yl)propanoate
The title compound was synthesized in a manner analogous to that described Example 475, using (R)-methyl 2-(tert-butoxycarbonyl)-3-iodopropanoate and 4-chloro-2-(trifluoromethyl)pyrimidine.

reactant | (R)-methyl 2-(tert-butoxycarbonyl)-3-iodopropanoate | C(C)(C)(C)OC(=O)[C@@H](C(=O)OC)CI | C9H15IO4
reactant | 4-chloro-2-(trifluoromethyl)pyrimidine | ClC1=NC(=NC=C1)C(F)(F)F | C5H2ClF3N2
product | (S)-methyl 2-(tert-butoxycarbonyl)-3-(2-(trifluoromethyl)pyrimidin-4-yl)propanoate | C(C)(C)(C)OC(=O)[C@H](C(=O)OC)CC1=NC(=NC=C1)C(F)(F)F | C14H17F3N2O4
